US08067408B2
A mixture of 3-bromo-5-methylbenzonitrile (9.80 g, 45.0 mmol), NBS (8.90 g, 45.0 mmol) and BPO (0.40 g) in CCl4 (250 mL) was heated for 10 h at reflux. The reaction mixture was cooled to room temperature and filtered, and the organic phase was washed successively with saturated sodium bicarbonate (100 mL), water (2×50 mL) and brine (2×50 mL). The combined organic phases were dried over Na2SO4 and concentrated in vacuum to give 12.5 g of crude 3-bromo-5-(bromomethyl)benzonitrile.

reactant | 3-bromo-5-methylbenzonitrile | 45.0 mmol, 9.80 g | BrC=1C=C(C#N)C=C(C1)C | C8H6BrN
reactant | NBS | 45.0 mmol, 8.90 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | CCl4 | 250 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-bromo-5-(bromomethyl)benzonitrile | 12.5 g | BrC=1C=C(C#N)C=C(C1)CBr | C8H5Br2N
